US07973047B2
Step 1. N-(2-(1-(tert-butyldimethylsilyloxy)cyclobutyl)-1-(3-chloro-6-neopentylpyridazin-4-yl)ethyl)-2-methylpropane-2-sulfinamide
2,2,6,6-Tetramethylpiperidine (0.68 ml, 4.0 mmol) was dissolved in 120 ml THF and 1-butyllithium (1.5 ml, 3.8 mmol) was added at −78° C. drop wise. The mixture was allowed to warm to 0° C. (over a period of 5 min) and kept there for 5 min. The mixture was cooled back to −78° C. and a solution of 3-chloro-6-neopentylpyridazine (0.45 g, 2.4 mmol) in 10 ml of THF was added drop wise. Stirring was continued for 20 min and a solution of (E)-N-(2-(1-(tert-butyldimethylsilyloxy)cyclobutyl)ethylidene)-2-methylpropane-2-sulfinamide (1.450 g, 4.4 mmol) in 5 ml THF was added drop wise. Stirring was continued for 10 min and the mixture was hydrolyzed with H2O. The mixture was extracted with EtOAc (3×300 ml) dried over MgSO4 and evaporated. The crude product was used in the next step without further purification.

reactant | 2,2,6,6-Tetramethylpiperidine | 4.0 mmol, 0.68 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 1-butyllithium | 3.8 mmol, 1.5 ml | C(CCC)[Li]
reactant | 3-chloro-6-neopentylpyridazine | 2.4 mmol, 0.45 g | ClC=1N=NC(=CC1)CC(C)(C)C | C9H13ClN2
reactant | (E)-N-(2-(1-(tert-butyldimethylsilyloxy)cyclobutyl)ethylidene)-2-methylpropane-2-sulfinamide | 4.4 mmol, 1.450 g | [Si](C)(C)(C(C)(C)C)OC1(CCC1)C\C=N\S(=O)C(C)(C)C | C16H33NO2SSi
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | N-(2-(1-(tert-butyldimethylsilyloxy)cyclobutyl)-1-(3-chloro-6-neopentylpyridazin-4-yl)ethyl)-2-methylpropane-2-sulfinamide | [Si](C)(C)(C(C)(C)C)OC1(CCC1)CC(C1=C(N=NC(=C1)CC(C)(C)C)Cl)NS(=O)C(C)(C)C | C25H46ClN3O2SSi
